US06034107
To a stirred solution of 5-(2,2,5-trimethyl-1,3-dioxolan-4-yl)-2-pyridinecarboxamide (16.4 mg, 0.0695 mmol) in 1,4-dioxane (1 ml) were added pyridine (23 ml, 0.278 mmol) and trifluoroacetic anhydride (20 ml, 0.139 mmol) at room temperature. After stirring at room temperature for 1 h, the mixture was diluted with ethyl acetate (20 ml), washed with sat. NaHCO3 (10 ml×2), dried over Na2SO4, and concentrated in vacuo to give a brown syrup. This was purified by preparative TLC [acetone/hexane (1/4, v/v)] to afford 9.7 mg (64%) of 5-(2,2,5-trimethyl-1,3-dioxolan-4-yl)-2-pyridinecarbonitrile as a solid:1H-NMR (270 MHz, CDCl3) δ 8.62 (1 H, d, J=1.8 Hz), 7.80 (1 H, dd, J=1.8 and 8.1 Hz), 7.70 (1 H, d, J=8.1 Hz), 5.25 (1 H, d, J=7.0 Hz), 4.67 (1 H, quit. J=6.6 Hz), 1.64 and 1.48 (each 3H, 2 s), 0.82 (3 H, d, J=6.6 Hz) ppm.

reactant | 5-(2,2,5-trimethyl-1,3-dioxolan-4-yl)-2-pyridinecarboxamide | 0.0695 mmol, 16.4 mg | CC1(OC(C(O1)C=1C=CC(=NC1)C(=O)N)C)C | C12H16N2O3
reactant | pyridine | 0.278 mmol, 23 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.139 mmol, 20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 5-(2,2,5-trimethyl-1,3-dioxolan-4-yl)-2-pyridinecarbonitrile | 9.7 mg, 64% | CC1(OC(C(O1)C=1C=CC(=NC1)C#N)C)C | C12H14N2O2
